US05034417
A mixture of 4'-amino-3'-(2,4-difluorophenylthio)acetophenone (2.0 g) and methanesulfonyl chloride (1.0 g) in pyridine (20 ml) was stirred overnight at room temperature. The mixture was poured into cold diluted hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated under reduced pressure. The residue was recrystallized from ethanol to give yellow crystals of 4'-acetyl-2'-(2,4-difluorophenylthio)methanesulfonanilide (1.3 g).

reactant | 4'-amino-3'-(2,4-difluorophenylthio)acetophenone | 2.0 g | NC1=C(C=C(C=C1)C(C)=O)SC1=C(C=C(C=C1)F)F | C14H11F2NOS
reactant | methanesulfonyl chloride | 1.0 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4'-acetyl-2'-(2,4-difluorophenylthio)methanesulfonanilide | 1.3 g | C(C)(=O)C1=CC(=C(NS(=O)(=O)C)C=C1)SC1=C(C=C(C=C1)F)F | C15H13F2NO3S2
